US08258144B2
1-(4-(4-(6-(4-(aminomethyl)piperidin-1-yl)-9H-purin-2-ylamino)phenyl)piperazin-1-yl)ethanone
A mixture of tert-butyl (1-(2-chloro-9H-purin-6-yl)piperidin-4-yl)methylcarbamate (100 mg, 0.272 mmol), 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone (120 mg, 0.548 mmol) and trimethylsilyl chloride (0.300 mL, 2.37 mmol) in n-BuOH (4 mL) was stirred at 135° C. for 70 h. n-BuOH was removed in vacuo. The residue was purified by HPLC to give the titled compound (12 mg). MS 450.6 (M+H); UV 200.0, 270.8 nm.

reactant | tert-butyl (1-(2-chloro-9H-purin-6-yl)piperidin-4-yl)methylcarbamate | 0.272 mmol, 100 mg | ClC1=NC(=C2N=CNC2=N1)N1CCC(CC1)CNC(OC(C)(C)C)=O | C16H23ClN6O2
reactant | 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone | 0.548 mmol, 120 mg | NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C12H17N3O
reactant | trimethylsilyl chloride | 2.37 mmol, 0.300 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | n-BuOH | 4 mL | CCCCO | C4H10O
product | 1-(4-(4-(6-(4-(aminomethyl)piperidin-1-yl)-9H-purin-2-ylamino)phenyl)piperazin-1-yl)ethanone | 12 mg | NCC1CCN(CC1)C1=C2N=CNC2=NC(=N1)NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C23H31N9O
